US07642264B2
5-{3-[4-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-phenyl}-pyridine-3-sulfonic acid amide
The title compound was prepared from 3-[4-methyl-6-(4-trifluoromethyl-phenyl)pyridin-2-yl]-benzeneboronic acid (example G.10) (0.407 g, 1.14 mmol) and commercially available 5-bromo-pyridine-3-sulfonic acid amide (178 mg, 1.14 mmol) according to the general procedure VI. Obtained as a white solid (0.101 g, 19%). MS (ISP) 470.3 [(M+H)+]; mp 217° C.

reactant | 3-[4-methyl-6-(4-trifluoromethyl-phenyl)pyridin-2-yl]-benzeneboronic acid | 1.14 mmol, 0.407 g | CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)B(O)O | C19H15BF3NO2
reactant | 5-bromo-pyridine-3-sulfonic acid amide | 1.14 mmol, 178 mg | BrC=1C=C(C=NC1)S(=O)(=O)N | C5H5BrN2O2S
product | 5-{3-[4-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-phenyl}-pyridine-3-sulfonic acid amide | CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C=1C=C(C=NC1)S(=O)(=O)N | C24H18F3N3O2S
